US09446034B2
A solution of 4-chloro-2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile (2.8 g, 9.38 mmol), 3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine (1.305 g, 9.38 mmol) and cesium carbonate (9.17 g, 28.1 mmol) in 1,4-dioxane (40 mL) was degassed. DPEPhos (0.404 g, 0.750 mmol) followed by palladium acetate (0.084 g, 0.375 mmol) were added, and the suspension was refluxed overnight. The solid was filtered, the reaction mixture was evaporated. The black oil was purified by flush column chromatography on silica gel (5% EtOAc:DCM). The combined fractions were evaporated. The resulting oil was dissolved in dioxane (20 mL) and sodium hydroxide (20 mL, 20.00 mmol) was added and the reaction mixture was refluxed overnight. The layers were separated and the organic layer was washed with 20 ml of 1 M NaOH. The aqueous layers were combined and washed with EtOAc. The combined organic layers were washed with water, brine and dried over MgSO4 and filtered. The solution was evaporated, suspended in acetonitrile and filtered. 4-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid (260 mg, 0.619 mmol, 6.60% yield) was isolated as a yellow solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.28 (d, J=6.57 Hz, 6 H) 1.91 (s, 1 H) 2.13 (s, 3 H) 4.43 (quin, J=6.57 Hz, 1 H) 5.97 (s, 1 H) 6.78 (s, 1 H) 7.05 (dd, J=8.46, 1.89 Hz, 1 H) 7.48 (d, J=1.77 Hz, 1 H) 7.96 (d, J=8.34 Hz, 1 H) 8.03 (s, 1 H) 8.61 (s, 1H); HPLC Rt=2.70 min, MS (ESI): 420.1, 422.0 [M+H]+.

reactant | 4-chloro-2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile | 9.38 mmol, 2.8 g | ClC1=CC(=C(C#N)C=C1)NC1=CC(=NC=C1Cl)Cl | C12H6Cl3N3
reactant | 3-methyl-1-(1-methylethyl)-1H-pyrazol-5-amine | 9.38 mmol, 1.305 g | CC1=NN(C(=C1)N)C(C)C | C7H13N3
reactant | cesium carbonate | 28.1 mmol, 9.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DPEPhos | 0.750 mmol, 0.404 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | sodium hydroxide | 20.00 mmol, 20 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.375 mmol, 0.084 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Chloro-2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]benzoic acid | 0.619 mmol, 260 mg, 6.60% yield | ClC1=CC(=C(C(=O)O)C=C1)NC1=CC(=NC=C1Cl)NC1=CC(=NN1C(C)C)C | C19H19Cl2N5O2
